US07572805B2
Part E. (±)-cis-Methyl 1-benzyl-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate
To a solution of (Z)-isopropyl 2-(3-methoxy-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate (2.5 g, 7.9 mmol) in 30 mL of EtOAc was added N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (2.34 g, 9.9 mmol) and trifluoroacetic acid (0.12 mL, 1.6 mmol). The solution was allowed to stir at 65° C. for 4 h. Starting material still remained by TLC analysis and so additional N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine (1.0 g, 4.2 mmol) and trifluoroacetic acid (0.05 mL, 0.65 mmol) were added and the reaction was stirred at 65° C. for an additional 3 h. The reaction was allowed to cool and was diluted with EtOAc, washed with sat'd aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (5:1 hexane/EtOAc) to afford 3.3 g (93%) of the title compound as an oil. LRMS (ES)+: 450.35 (M+H)+.

reactant | (Z)-isopropyl 2-(3-methoxy-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate | 7.9 mmol, 2.5 g | COC(\C=C/C1=C(C(=O)OC(C)C)C(=CC=C1)C(F)(F)F)=O | C15H15F3O4
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 9.9 mmol, 2.34 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
reactant | trifluoroacetic acid | 1.6 mmol, 0.12 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-(methoxymethyl)-N-(trimethylsilylmethyl)benzylamine | 4.2 mmol, 1.0 g | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | trifluoroacetic acid | 0.65 mmol, 0.05 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (±)-cis-Methyl 1-benzyl-4-(2-(isopropoxycarbonyl)-3-(trifluoromethyl)phenyl)pyrrolidine-3-carboxylate | 3.3 g, 93% | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1=C(C(=CC=C1)C(F)(F)F)C(=O)OC(C)C)C(=O)OC | C24H26F3NO4
